US05376684
A solution of 0.36 g of lithium hydroxide monohydrate in 7 ml of water is added to a solution of 1.61 g of 3-(3,5-dichlorobenzylamino)propyl(diethoxymethyl)-phosphinic acid ethyl ester in 3 ml of ethanol and heated at 60° for 24 hours. The mixture is then cooled to room temperature and the solvent is removed under reduced pressure. The evaporation residue is taken up in water and rendered neutral with phsophoric acid. A white precipitate is formed. The precipitate is filtered off and the filtrate is concentrated to dryness by evaporation. The white evaporation residue is dried under reduced pressure and crystallised from toluene/diethyl ether. Filtration with suction and drying yield 3-(3,5-dichlorobenzylamino)propyl(diethoxymethyl)phosphinic acid having a melting point of 160°-161°.

reactant | lithium hydroxide monohydrate | 0.36 g | O.[OH-].[Li+]
reactant | 3-(3,5-dichlorobenzylamino)propyl(diethoxymethyl)-phosphinic acid ethyl ester | 1.61 g | C(C)OP(=O)(C(OCC)OCC)CCCNCC1=CC(=CC(=C1)Cl)Cl | C17H28Cl2NO4P
solvent | water | 7 ml | O | H2O
solvent | ethanol | 3 ml | C(C)O | C2H6O
product | 3-(3,5-dichlorobenzylamino)propyl(diethoxymethyl)phosphinic acid | ClC=1C=C(CNCCCP(O)(=O)C(OCC)OCC)C=C(C1)Cl | C15H24Cl2NO4P
